Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
DVT

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old gentleman with a history of
urothelial carcinoma metastatic to the right pelvic sidewall
currently on treatment hold due to disease stability who 
presents
with incidental finding of left common femoral vein thrombus on
staging images. 

Mr. ___ recently followed up with Dr. ___, he had
ongoing complaint of left buttock pain and had ___ with him 
CD
of MRI pelvis done in ___. Due to need for repeat imaging he
had MRI pelvis done at ___ on ___ which showed stability of
right pelvic wall mass but new compression of the left external
iliac vein with non-occlusive proximal common femoral vein
thrombus. Patient was referred to the ED by his oncologist. 

ED initial vitals were  97.3 89 193/64 19 100% RA
Prior to transfer vitals were 97.9 88 134/60 16 100% RA
 
ED work-up significant for: none prior to bed assignment. 

ED management significant for:
-Medications: hydrocodone-APAP (___) po x1, MSIV 2mg x1, UFH
bolus + infusion started

On arrival to the floor, patient reports having moderate pain in
left hip that is worsened by lifting his leg. He otherwise feels
well and has no complaints.

Patient denies fevers/chills, night sweats, headache, vision
changes, dizziness/lightheadedness, weakness/numbnesss, 
shortness
of breath, cough, hemoptysis, chest pain, palpitations, 
abdominal
pain, nausea/vomiting, diarrhea, hematemesis,
hematochezia/melena, dysuria, hematuria, and new rashes. 

REVIEW OF SYSTEMS: A complete 10-point review of systems was
performed and was negative unless otherwise noted in the HPI. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY (Per OMR, reviewed): 

Mr. ___ has a ___ year history of chronic self catheterization
secondary to injury from agent orange exposure. About 2 or ___
years ago, he began developing hematuria, including large clots
that would block his catheter.
He saw his urologist and reports a normal report.  
- In ___ or ___, however, he developed very
heavy hematuria while residing in ___. He underwent CT
imaging which revealed a 6 cm mass in the bladder, with biopsy
confirming bladder carcinoma. 
- He returned to ___ at the end of ___ and was seen
by urology with radical just make sure that cystoprostatectomy 
on
___
notable for 6.5 x 3.5 x 3.0cm high grade urothelial ca, a
separate focus of papillary transitional cell, and right lobe of
prostate ___ 3+4 prostate cancer, with 2 positive lymph 
nodes
(right obturator lymph node, left obturator lymph node).  
- ___ and was found to have a MDR E.Coli UTI and was treated
with a 10 day course of IV antibiotics. During this admission, 
CT
A&P revealed an abnormal left pelvic sidewall soft tissue,
potentially evidence of metastatic disease.  He also had biopsy
of a paraesophageal node which was consistent with metastatic
bladder cancer. 
- ___ C1D1 Gemcitabine/Cisplatin
- ___- cycle interrupeted on ___ due to UTI and sepsis
- ___: admitted with sepsis a and UTI with EColi
- ___: Day ___ of XRT to pelvic sidewall
- ___: C1D1 Pembrolizumab ___ose
- ___: admission with fever, UCx negative
- ___: admission with fever, diffuse myalgia, UCx negative
- CT scan on ___ showed increased rim enhancement along the
left pelvic sidewall which could represent a necrotic metastatic
lymph node. Patient remained afebrile off ABx, therefore, this
was not investigated further.
- ___: admission with UTI and back pain
- His CT scan ___ showed less ring enhancement of L pelvic
sidewall w stable size. 
- CT scan ___ showed stable L pelvic sidewall mass without
any new disease in the abd/pelvis/chest.

PAST MEDICAL HISTORY (Per OMR, reviewed):  

- Agent orange exposure 
- Hypertension
- Dyslipidemia
- DM
- Recurrent urosepsis
- Hydronephrosis on left - had a nephrostomy tube back in 
___

 
Social History:
___
Family History:
His parents died of cancer of unknown primary.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:

VS: Stable. See eFlowsheets
GENERAL: Well- appearing gentleman, in no distress lying in bed
comfortably.
HEENT: Anicteric, PERLL, Mucous membranes moist, oropharynx
clear.
CARDIAC: Regular rate and rhythm, no murmurs, rubs or gallops.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Non-distended, normal bowel sounds, soft, non-tender, no
guarding, no palpable masses, no organomegaly.
EXT: Warm, well perfused. Left thigh edema. No erythema, 
cyanosis
or venous engorgement. Left hip joint: pain on active>passive
flexion. 
NEURO: Alert and oriented, good attention,  linear thought
process. CN II-XII intact. Strength full throughout. Sensation 
to
light touch intact.
SKIN: No significant rashes. 

DISCHARGE PHYSICAL EXAM:

___ 0720 Temp: 97.6 PO BP: 123/61 HR: 77 RR: 18 O2 sat: 99%
O2 delivery: RA FSBG: 166 

GENERAL: Well- appearing gentleman, in no distress lying in bed
comfortably.
HEENT: Anicteric, PERLL, Mucous membranes moist, oropharynx
clear.
CARDIAC: Regular rate and rhythm, no murmurs, rubs or gallops.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: ___ 06:40AM BLOOD WBC: 13.7* RBC: 3.18*
Hgb: 7.5* Hct: 25.5* MCV: 80* MCH: 23.6* MCHC: 29.4* RDW: 15.3
RDWSD: 44.___ 
___ 06:40AM BLOOD Glucose: 157* UreaN: 33* Creat: 1.5* Na:
141 K: 4.7 Cl: 102 HCO3: 24 AnGap: 15 
___ 06:40AM BLOOD Calcium: 9.2 Phos: 3.4 Mg: 1.9  normal
bowel sounds, soft, non-tender, no
guarding, no palpable masses, no organomegaly.
EXT: Warm, well perfused. 1+ left thigh and calf edema. No
erythema.
NEURO: Alert and oriented, good attention,  linear thought
process. CN III-XII intact. Strength full throughout. Sensation
to light touch intact.
SKIN: No significant rashes. 

 
Pertinent Results:
ADMISSION LABS:
===============

___ 08:45PM BLOOD WBC-15.3* RBC-3.36* Hgb-7.9* Hct-26.8* 
MCV-80* MCH-23.5* MCHC-29.5* RDW-15.4 RDWSD-44.3 Plt ___
___ 08:45PM BLOOD ___ PTT-30.9 ___
___ 08:45PM BLOOD Glucose-220* UreaN-39* Creat-1.6* Na-140 
K-5.0 Cl-100 HCO3-24 AnGap-16
___ 07:50AM BLOOD Calcium-9.4 Phos-3.7 Mg-2.0

DISCHARGE LABS:
===============

___ 06:40AM BLOOD WBC-13.7* RBC-3.18* Hgb-7.5* Hct-25.5* 
MCV-80* MCH-23.6* MCHC-29.4* RDW-15.3 RDWSD-44.7 Plt ___
___ 06:40AM BLOOD Glucose-157* UreaN-33* Creat-1.5* Na-141 
K-4.7 Cl-102 HCO3-24 AnGap-15
___ 06:40AM BLOOD Calcium-9.2 Phos-3.4 Mg-1.9

IMAGING: 
========
___ PELVIC MRI:
1.  5.9 cm left and 3.4 cm right pelvic sidewall nodal masses 
with abnormal  0.9 cm left internal iliac lymph node.  Overall, 
similar disease extent when compared to ___ MR and 
___ CT, with disease progression when compared to 
___ CT. 
2.  Compression of left external iliac vein with nonocclusive 
thrombus within the proximal left common femoral vein. 
3.  Persistent hyperemia and edema of the left obturator and 
left piriformis musculature which may be post radiation in 
nature or related to denervation injury from encasement of the 
neurovascular bundles by the left pelvic sidewall nodal mass. 
4.  Post radiation changes involving the left anterosuperior 
acetabulum.   Close attention on follow-up is recommended. 

 
Brief Hospital Course:
PRINICPLE REASON FOR ADMISSION
=============================
Mr. ___ is a ___ year-old gentleman with a history of 
urothelial carcinoma metastatic to the right pelvic sidewall 
currently on treatment hold due to disease stability who 
presents with incidental finding of left common femoral vein 
thrombus on staging images. He was started on heparin before 
transition to lovenox. Factor Xa level is pending at discharge. 

#Left common femoral vein acute venous thrombosis: Diagnosed 
incidentally on staging MRI. After diagnosis, patient did note 
some mild left leg swelling. No current plans for IVC filter and 
he had no signs or symptoms of PE. He was started initially on 
IV heparin gtt before transition to enoxaparin 80mg SC q12 
hours. We checked a Xa level 4 hours after his third dose; will 
need to be followed up in clinic on ___. 

#Metastatic urothelial carcinoma: Metastatic to right and left 
pelvic wall with stable disease since ___ according to MRI. Had 
urosepsis with first cycle of gem/cis and diffuse myalgias with 
first cycle of pembrolizumab. Currently immunotherapy on hold 
with watchful waiting, however given recent progression on MR, 
plan may include initiating atezolizumab. He will follow up in 
clinic on ___.

#Chronic cancer related pain: Mostly L-sided buttock pain in
likely correlation with pyriformis and obturator muscle atrophy
vs. XRT changes. We added nortyptiline with fair effect and will 
continued oxycontin 10mg qhs and oxycodone 10mg as needed. Would 
recommend against further NSAIDS. He will follow up with his 
oncology team tomorrow, and with chronic pain and nephrology 
next week.

#Opioid induced constipation: Secondary to opioid use. Standing 
PEG 17g daily  Naloxegol 25mg daily (own meds). 
Sennosides/docusate bid:prn

#Chronic kidney disease, stage III: Stable. Likely ___ urinary 
obstruction, multiple urinary infections, diabetic nephropathy. 
He has follow up with nephrology next week.

#Type II Diabetes Mellitus: Continued glargine 20u qhs. Added 
lispro SS while in house, and held his SFU. SFU restarted on 
discharge.

#Hypertension
#Hyperlipidemia
#CV prevention: Continued amlodipine, atorvastatin, ASA81

#Recurrent urinary tract infections: No active urinary symptoms
currently. Continued fosfomycin 3g qWEEK

#Billing: >30 minute spent coordinating and executing this 
discharge plan

TRANSITIONAL ISSUES:
====================
- Please follow up factor Xa level and adjust lovenox dose, if 
needed
- Started nortryptiline 10mg qhs - increase as tolerates
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
2. amLODIPine 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Docusate Sodium 100 mg PO BID:PRN constipation 
6. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
7. Polyethylene Glycol 17 g PO DAILY constipation 
8. Senna 17.2 mg PO BID:PRN constipation 
9. GlipiZIDE 7.5 mg PO BID 
10. Fosfomycin Tromethamine 3 g PO 1X/WEEK (WE) 
11. Glargine 20 Units Bedtime
12. naloxegol 25 mg oral DAILY oxycodone 
13. Lidocaine 5% Patch 1 PTCH TD QPM 
14. OxyCODONE SR (OxyconTIN) 10 mg PO QHS 

 
Discharge Medications:
1.  Enoxaparin Sodium 80 mg SC Q12H 
RX *enoxaparin 80 mg/0.8 mL 80 mg SC q12 hours Disp #*60 Syringe 
Refills:*0 
2.  Nortriptyline 10 mg PO QHS 
RX *nortriptyline 10 mg 1 tab by mouth at bedtime Disp #*30 
Capsule Refills:*0 
3.  Glargine 20 Units Bedtime 
4.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
5.  amLODIPine 5 mg PO DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 40 mg PO QPM  
8.  Docusate Sodium 100 mg PO BID:PRN constipation  
9.  Fosfomycin Tromethamine 3 g PO 1X/WEEK (WE)  
10.  GlipiZIDE 7.5 mg PO BID  
11.  Lidocaine 5% Patch 1 PTCH TD QPM  
12.  naloxegol 25 mg oral DAILY oxycodone  
13.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate  
14.  OxyCODONE SR (OxyconTIN) 10 mg PO QHS  
15.  Polyethylene Glycol 17 g PO DAILY constipation  
16.  Senna 17.2 mg PO BID:PRN constipation  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
# Deep vein thrombosis
# Metastatic urothelial cancer
# Chronic cancer associated pain
# Chronic kidney disease, stage IIIA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was as pleasure taking care of you at ___ 
___. You were admitted with a new blood clot in your 
leg. We started you on a blood thinning medication called 
lovenox, which you will need to take twice daily. We also added 
a new medication for your back pain, called nortryptiline. You 
should follow up with Dr. ___ and with the palliative care 
doctors for further ___ of your cancer and your pain. 

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___